US04166115
Phosphorus oxychloride (0.26 g.) was added under ice-cooling to dimethylformamide (0.15 g.) and the mixture was warmed at 40° C. for 1 hour. Ethyl acetate (1.5 ml.) was added thereto and to the mixture was at a time added 2-methoxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetic acid (syn isomer) (0.3 g.) with stirring and ice-cooling, after which the resulting mixture was stirred for 20 minutes at 0° to 5° C. On the other hand, bis(trimethylsilyl)acetamide (1.2 g.) was added to a suspension of 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (0.53 g.) in ethyl acetate (7 ml.) and the mixture was stirred at ambient temperature. To this solution was dropwise added the above obtained ethyl acetate solution at -20° C. and the mixture was stirred for 2 hours at -10° to -20° C. Water (20 ml.) was added to the reaction mixture below -25° C. and ethyl acetate (20 ml.) was added thereto, after which the mixture was stirred. An insoluble material was filtered off and the ethyl acetate layer was separated. Water (15 ml.) was added to the ethyl acetate layer and the mixture was adjusted to pH 7.5 with a saturated aqueous solution of sodium bicarbonate. The aqueous layer was separated, washed with methylene chloride and methylene chloride in the aqueous layer was removed by bubbling of nitrogen gas. The aqueous solution was adjusted to pH 2.2 with 10% hydrochloric acid and precipitates were collected by filtration and dried to give 7-[2-methoxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.28 g.).

reactant | Phosphorus oxychloride | 0.26 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methoxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetic acid | 0.3 g | CON=C(C(=O)O)C=1N=C(SC1)C | C7H8N2O3S
reactant | bis(trimethylsilyl)acetamide | 1.2 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.53 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
solvent | ethyl acetate | 7 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 1.5 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 20 ml | O | H2O
solvent | dimethylformamide | 0.15 g | CN(C=O)C | C3H7NO
product | 7-[2-methoxyimino-2-(2-methyl-1,3-thiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.28 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)C | C17H18N8O5S3
